US06046232
Synthesis of α-[4-(4-Fluorobenzyloxy)phenyl]-N-tert-butylnitrone
The title compound was prepared by refluxing a benzene solution of 4-(4-fluorobenzyloxy)benzaldehyde and N-tert-butylhydroxylamine for 21 hours with p-toluenesulfonic acid as a catalyst. The title compound was obtained as a solid in 98.5% yield, m.p. 180.3° C. (Rf =0.16 on a silica gel plate using hexanes: EtOAc, 1:1, v/v, as an eluant).

reactant | 4-(4-fluorobenzyloxy)benzaldehyde | FC1=CC=C(COC2=CC=C(C=O)C=C2)C=C1 | C14H11FO2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
catalyst | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-[4-(4-Fluorobenzyloxy)phenyl]-N-tert-butylnitrone | FC1=CC=C(COC2=CC=C(C=C2)C=[N+]([O-])C(C)(C)C)C=C1 | C18H20FNO2
